US03957997
A mixture of 3-methoxy-2(1H)-pyridone (25 g., 0.2 moles), potassium hydroxide (16 g., 0.24 moles) and methyl iodide (45.4 g., 0.32 moles) in 400 ml. methanol is heated at reflux for 5 hours. The methanol is removed under reduced pressure leaving a solid redidue which is extracted with methylene chloride. The methylene chloride extracts are washed with water, a saturated salt solution, and dried over sodium sulfate. Evaporation of the dried extracts, under reduced pressure, affords 1-methyl-3-methoxy-2(1H)-pyridone as a colorless oil which solidifies on standing (26.2 g., 94%). The pyridone is very hygroscopic and rapidly liquifies on exposure to air.

reactant | 3-methoxy-2(1H)-pyridone | 0.2 moles, 25 g | COC=1C(NC=CC1)=O | C6H7NO2
reactant | potassium hydroxide | 0.24 moles, 16 g | [OH-].[K+]
reactant | methyl iodide | 0.32 moles, 45.4 g | CI | CH3I
solvent | methanol | CO | CH4O
product | 1-methyl-3-methoxy-2(1H)-pyridone | CN1C(C(=CC=C1)OC)=O | C7H9NO2
